US07790707B2
Methyl 4-(2-oxoimidazolidin-1-yl)benzoate (Step 2 in Scheme 1)
Methyl 4-(3-(2-chloroethyl)ureido)benzoate (8.5 g, 33.1 mmol) was then stirred in N,N-dimethylformamide (80 ml) with K2CO3 (2.3 g, 16.7 mmol) at room temperature for 12 hours. The solid was filtered off and the solvent was removed in vacuum. The crude product was dissolved in dichloromethane and purified on ISCO system (30% EtOAc in dichloromethane) to give a pure product as a white crystalline (5.48 g, 75%): 1H NMR (400 MHz, CDCl3) δ 8.00 (d, 2H), 7.62 (d, 2H), 4.90 (br s, 1H), 3.97 (dd, 2H), 3.90 (s, 3H), 3.60 (dd, 2H). MS (ESI) m/z: Calculated: 220.08; Observed: 221.10 (M++1).

reactant | Methyl 4-(3-(2-chloroethyl)ureido)benzoate | 33.1 mmol, 8.5 g | ClCCNC(NC1=CC=C(C(=O)OC)C=C1)=O | C11H13ClN2O3
reactant | K2CO3 | 16.7 mmol, 2.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | Methyl 4-(2-oxoimidazolidin-1-yl)benzoate | O=C1N(CCN1)C1=CC=C(C(=O)OC)C=C1 | C11H12N2O3
